US04472433
A mixture of ethyl 2-[2-amino-3-(3,5-dichlorophenoxy)phenyl]acetate (6.9 g.), sodium hydroxide (1.6 g.) and water (50 ml.) was treated in a similar manner to that of Example 5-(2). The resultant residue (6.2 g.) was crystallized with a mixture of ethyl acetate and n-hexane to give white crystals of 2-[2-amino-3-(3,5-dichlorophenoxy)phenyl]acetic acid (4.5 g.). mp 113° to 115° C.

reactant | ethyl 2-[2-amino-3-(3,5-dichlorophenoxy)phenyl]acetate | 6.9 g | NC1=C(C=CC=C1OC1=CC(=CC(=C1)Cl)Cl)CC(=O)OCC | C16H15Cl2NO3
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-[2-amino-3-(3,5-dichlorophenoxy)phenyl]acetic acid | 4.5 g | NC1=C(C=CC=C1OC1=CC(=CC(=C1)Cl)Cl)CC(=O)O | C14H11Cl2NO3
